Test behav-tristate.cir

* -----------------------------------------------------------74HCT125------
*** This is not quad
* Quad Buffer/Line Driver; Tri-State
* Philips High Speed CMOS Logic Family, 1994, pages 243 to 247
* jat 9/4/96    

.SUBCKT 74HCT125 1A 1Y 1OEBAR
+ OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+ PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 PINDLY(1,1,0) DPWR DGND
+ 1A
+ 1OEBAR
+ 1Y
+ IO_HCT MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ TRISTATE:
+ ENABLE LO = 1OEBAR
+  1Y = {
+    CASE(
+    TRN_Z$,DELAY(-1,15NS,28NS),
+    TRN_$Z, DELAY(-1,15NS,25NS),
+    (TRN_LH | TRN_HL), DELAY(-1,15NS,25NS),
+    DELAY(-1,16NS,29NS))}

.ENDS 74HCT125
* -----------------------------------------------------------74HC126A------
*** This is not quad
* Quad Tri-State Noninverting Buffers
* Motorola High-Speed CMOS Data, 1993, pages 5-106 to 5-109
* jat 9/4/96    

.SUBCKT 74HC126A A1 Y1 OE1
+ OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+ PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 PINDLY(1,1,0) DPWR DGND
+ A1
+ OE1
+ Y1
+ IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ TRISTATE:
+ ENABLE HI = OE1
+  Y1 = {
+    CASE(
+    TRN_Z$,DELAY(-1,-1,18NS),
+    TRN_$Z, DELAY(-1,-1,24NS),
+    (TRN_LH | TRN_HL), DELAY(-1,-1,18NS),
+    DELAY(-1,-1,25NS))}

.ENDS 74HC126A

* .SUBCKT 74HCT125 1A 1Y 1OEBAR
x1 1a 1y oebar 74hct125
* .SUBCKT 74HC126A A1 Y1 OE1
x2 a1 y1 oe 74hc126a
a_1 [ 1a oebar a1 oe ] input_vec1
.model input_vec1 d_source(input_file = "behav-tristate.stim")

.tran 0.01ns 1us
.control
run
listing
edisplay
eprint 1a oebar 1y a1 oe y1
quit
.endc
.end
